US09334263B2
To a solution of (S)-tert-butyl 2-((4-(4-(4-(5-benzoylpyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate (80 mg, 0.127 mmol) in THF/methanol was added sodium borohydride (20 mg, 0.51 mmol). The mixture was stirred at room temperature for 1 hour, and LCMS showed the reaction was completed. The solvents were removed to give (S)-tert-butyl 2-((4-(4-(4-(5-(hydroxy(phenyl)methyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate (80 mg, crude) as a yellowish solid. (MS (ES+) C31H39N11O4 requires: 629, found: 630 [M+H]+.

reactant | (S)-tert-butyl 2-((4-(4-(4-(5-benzoylpyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | 0.127 mmol, 80 mg | C(C1=CC=CC=C1)(=O)C=1C=NC(=NC1)N1CCN(CC1)C1=NC(=NC=N1)NC=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C31H37N11O4
reactant | sodium borohydride | 0.51 mmol, 20 mg | [BH4-].[Na+]
solvent | THF methanol | C1CCOC1.CO
product | (S)-tert-butyl 2-((4-(4-(4-(5-(hydroxy(phenyl)methyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | 80 mg | OC(C=1C=NC(=NC1)N1CCN(CC1)C1=NC(=NC=N1)NC=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C31H39N11O4
